data/oMe_Silver.jsonl
{"reaction_id": "NR-237_1-C(=O)c1ccccc1_2-c1ccc(C(F)(F)F)cc1_3-c1ccc(C)cc1_4-c1ccccc1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["C(=O)c1ccccc1N=[N+]=[N-]","P(c1ccc(C(F)(F)F)cc1)(c1ccc(C)cc1)(c1ccccc1)"],"products_smiles": ["C(=O)c1ccccc1N","O=P(c1ccc(C(F)(F)F)cc1)(c1ccc(C)cc1)(c1ccccc1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)c1ccccc1N=[N+]=N[P+](c1ccc(C(F)(F)F)cc1)(c1ccc(C)cc1)(c1ccccc1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)c1ccccc1N1N=NP1(c1ccc(C(F)(F)F)cc1)(c1ccc(C)cc1)(c1ccccc1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)c1ccccc1N=P(c1ccc(C(F)(F)F)cc1)(c1ccc(C)cc1)(c1ccccc1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)c1ccccc1[NH+]=P(c1ccc(C(F)(F)F)cc1)(c1ccc(C)cc1)(c1ccccc1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)c1ccccc1N[P](O)(c1ccc(C(F)(F)F)cc1)(c1ccc(C)cc1)(c1ccccc1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)c1ccccc1N","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
{"reaction_id": "NR-114_1-C","level": "medium","name": "Hunsdiecker Reaction","reactants_smiles": ["[Ag+].O=C([O-])(C)","BrBr"],"products_smiles": ["[Br](C)"],"conditions": "hν or Heat","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=C(OBr)(C)","step_weight": 0,"rationale": "Silver carboxylate acts as a nucleophile toward bromine, forming the acyl hypobromite due to the high electrophilicity of bromine and the good leaving ability of AgBr."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "O=C([O])(C)","step_weight": 0,"rationale": "Heat or light induces homolytic cleavage of the weak O–Br bond in the hypobromite, generating an acyloxy radical and bromine radical."},{"step": 3,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](C)","step_weight": 0,"rationale": "The acyloxy radical rapidly decarboxylates, driven by CO₂ release and formation of a more stable alkyl radical."},{"step": 4,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "[Br](C)","step_weight": 0,"rationale": "The alkyl radical reacts with bromine radical to form the alkyl bromide, favored by the strong C–Br bond formation and radical recombination kinetics."}],"description": "In the Hunsdiecker reaction, a silver carboxylate reacts with bromine under heat or light to form an alkyl bromide via radical decarboxylation. The process involves initial formation of an acyl hypobromite, homolytic cleavage to generate radicals, CO₂ loss, and radical recombination with bromine."}
